US04605664
3-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxymethyl]-4-hydroxy-1H-pyrrole-2,5-dione 1-Methylpiperazine Salt
The reaction is conducted as described in Example 1, Step D except that the (+)-(6,7-dichloro-2 -cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetamide is replaced by an equimolar amount of 3-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]propanamide. There is thus obtained 3-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxymethyl]-4-hydroxy-1H-pyrrole-2,5-dione and its 1-methylpiperazine salt.

reactant | (+)-(6,7-dichloro-2 -cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetamide | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)CC(=O)N | C17H19Cl2NO2
reactant | 3-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]propanamide | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCC(=O)N | C18H21Cl2NO3
reactant | 3-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxymethyl]-4-hydroxy-1H-pyrrole-2,5-dione | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCC=1C(NC(C1O)=O)=O | C20H19Cl2NO5
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxymethyl]-4-hydroxy-1H-pyrrole-2,5-dione 1-Methylpiperazine Salt | CN1CCNCC1.ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCC=1C(NC(C1O)=O)=O | InChI=1S/C20H19Cl2NO5.C5H12N2/c1-20(10-4-2-3-5-10)7-9-6-12(14(21)15(22)13(9)17(20)25)28-8-11-16(24)19(27)23-18(11)26;1-7-4-2-6-3-5-7/h6,10H,2-5,7-8H2,1H3,(H2,23,24,26,27);6H,2-5H2,1H3
